************************************************************************
* auCdl Netlist:
* 
* Library Name:  MULTIPLIER
* Top Cell Name: TGFA_2010
* View Name:     schematic
* Netlisted on:  Jun 20 13:53:08 2020
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: MULTIPLIER
* Cell Name:    transmission
* View Name:    schematic
************************************************************************

.SUBCKT transmission GND IN IN2 IN3 OUT VDD
*.PININFO GND:I IN:I IN2:I IN3:I VDD:I OUT:O
MM0 IN IN3 OUT GND NMOS_VTL W=90n L=50n m=1
MM1 IN IN2 OUT VDD PMOS_VTL W=180.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: MULTIPLIER
* Cell Name:    TGFA_2010
* View Name:    schematic
************************************************************************

.SUBCKT TGFA_2010 A B Cin Cout GND Sum VDD
*.PININFO A:I B:I Cin:I GND:I VDD:I Cout:O Sum:O
MM6 net21 Cin Sum GND NMOS_VTL W=90n L=50n m=1
MM5 net21 net11 GND GND NMOS_VTL W=90n L=50n m=1
MM1 net42 B GND GND NMOS_VTL W=90n L=50n m=1
MM0 net11 A net42 GND NMOS_VTL W=90n L=50n m=1
MM7 net11 Cin Sum VDD PMOS_VTL W=180.0n L=50n m=1
MM4 net21 net11 VDD VDD PMOS_VTL W=180.0n L=50n m=1
MM2 B A net11 VDD PMOS_VTL W=180.0n L=50n m=1
MM3 net11 B A VDD PMOS_VTL W=180.0n L=50n m=1
XI2 GND A net11 net21 Cout VDD / transmission
XI1 GND Cin net21 net11 Cout VDD / transmission
XI0 GND Cin net11 net21 Sum VDD / transmission
.ENDS

